US05569653
N-[2,3-Epoxypropyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine fumarate
A mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (11 g, 50 mmol), K2CO3 (7.5 g, 54 mmol) and epibromohydrin (9 g, 54 mmol) in acetonitrile (150 ml) was heated at reflux for 16 hours. The mixture was filtered and concentrated to dryness. The crude product was purified by flash chromatography (SiO2, 180 g, eluted with methylene chloride (DCM), and 1-2% CH3OH in DCM). The material thus purified as off-white solids weighed 8.7 g (63%). This material (3 g) was converted to fumarate salt in ethanol and isopropyl ether to give 3.27 g of white crystals, m.p.=145°-147° C.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 50 mmol, 11 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 54 mmol, 7.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | epibromohydrin | 54 mmol, 9 g | C(Br)C1CO1 | C3H5BrO
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-[2,3-Epoxypropyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine fumarate | 3.27 g | C(\C=C\C(=O)O)(=O)O.O1C(CN2CCC(CC2)C2=NOC3=C2C=CC(=C3)F)C1 | InChI=1S/C15H17FN2O2.C4H4O4/c16-11-1-2-13-14(7-11)20-17-15(13)10-3-5-18(6-4-10)8-12-9-19-12;5-3(6)1-2-4(7)8/h1-2,7,10,12H,3-6,8-9H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
